US04931083
3-(1-ethoxycarbonylethoxy)-1-(2,4-dichlorophenyl)-1,2,4-1H-triazole
Thirteen g of 3-hydroxy-1-(2,4-dichlorophenyl)-1,2,4-1H-triazole was added to a solution of sodium methoxide (prepared from 1.3 g of sodium and excess methanol) in 200 ml of dimethylsulfoxide. The solution was heated on a steam bath for 2 hours, and then 10 g of ethyl 2-bromopropionate was added and heating was continued for 1.5 hours more. The mixture was then cooled, poured over ice-water, and extracted with 200 ml of diethyl ether. The ether extract was washed with 1N hydrochloric acid, with saturated aqueous sodium bicarbonate, and finally with saturated brine, and was dried with sodium sulfate and phase separation paper. The solvent was removed under vacuum to obtain 16 g of the desired product, an oil.

reactant | 3-hydroxy-1-(2,4-dichlorophenyl)-1,2,4-1H-triazole | OC1=NN(C=N1)C1=C(C=C(C=C1)Cl)Cl | C8H5Cl2N3O
reactant | sodium methoxide | 1.3 g | C[O-].[Na+]
reactant | ethyl 2-bromopropionate | 10 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 3-(1-ethoxycarbonylethoxy)-1-(2,4-dichlorophenyl)-1,2,4-1H-triazole | 16 g | C(C)OC(=O)C(C)OC1=NN(C=N1)C1=C(C=C(C=C1)Cl)Cl | C13H13Cl2N3O3
